US05104867
1-(Cyclohexyloxycarbonyloxy)ethyl (1R, 5S, 6S)-2-(2-oxo-4 -pyrrolidinylthio)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate
Following a procedure similar to that described in Example 39, but using 54 mg of sodium 2-(2-oxo-4-pyrrolidinylthio)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate obtained by a similar procedure to that described in Example 36 and 50 μl of 1-(cyclohexyloxycarbonyloxy)ethyl iodide, 62 mg of the title compound were obtained as a colorless powder.

reactant | sodium 2-(2-oxo-4-pyrrolidinylthio)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 54 mg | O=C1NCC(C1)SC=1C([C@H]2N(C1C(=O)[O-])C(C2[C@@H](C)O)=O)C.[Na+]
reactant | 1-(cyclohexyloxycarbonyloxy)ethyl iodide | 50 μl | C1(CCCCC1)OC(=O)OC(C)I | C9H15IO3
product | 1-(Cyclohexyloxycarbonyloxy)ethyl (1R, 5S, 6S)-2-(2-oxo-4 -pyrrolidinylthio)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 62 mg | O=C1NCC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OC(C)OC(=O)OC1CCCCC1)C([C@@H]2[C@@H](C)O)=O)C | C23H32N2O8S
